US05814631
Synthesis of 7-chloro-3-(4-ethoxycarbonyl-1-methylpyrazole-5-sulfonly)-2,4(1H,3H)-quinazolinedione (Compound 104)
1.26 g (4.89 mmol) of 1-methyl-4-ethoxycarbonylpyrazol-5-sulfonylisocyanate and 839 mg (4.89 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 712 mg of the above-identified compound (yield 35.3%). Properties: colorless crystal, Melting point: 222°-224° C., PMR (δppm, DMSO-d6):1.05 (3H,t), 2.09 (3H,s), 4.04 (2H,q), 4.25 (2H,s), 7.15 (1H,s), 7.29 (1H,s), 7.91 (1H,d), 8.02 (1H,s), 11.92 (1H,br).

reactant | 1-methyl-4-ethoxycarbonylpyrazol-5-sulfonylisocyanate | 4.89 mmol, 1.26 g | CN1N=CC(=C1S(=O)(=O)N=C=O)C(=O)OCC | C8H9N3O5S
reactant | 2-amino-4-chlorobenzoic acid | 4.89 mmol, 839 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-ethoxycarbonyl-1-methylpyrazole-5-sulfonly)-2,4(1H,3H)-quinazolinedione | 712 mg, yield 35.3% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=C(C=NN1C)C(=O)OCC)=O | C15H13ClN4O6S
